US08232272B2
3-(2-aminoethyl)-5-[2-(3-fluorophenyl)-1-methyl-1H-benzimidazol-5-yl]-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one
6.3 g (13 mM) of tert-butyl 2-[5-[2-(3-fluorophenyl)-1-methyl-1H-benzimidazol-5-yl]-6-methyl-2-oxo-2H-1,3,4-thiadiazin-3(6H)-yl]ethylcarbamate are added to 30 ml of 4N hydrochloric dioxane. The mixture is stirred at room temperature for 20 hours. The crystalline solid, which is the hydrochloride of the desired compound, is filtered off. The free base is obtained via the action of aqueous sodium hydrogen carbonate solution and extraction with ethyl acetate. The aqueous phase is washed with water and then dried over sodium sulfate and concentrated under vacuum to give 3.85 g of 3-(2-aminoethyl)-5-[2-(3-fluorophenyl)-1-methyl-1H-benzimidazol-5-yl]-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one in solid form.

reactant | tert-butyl 2-[5-[2-(3-fluorophenyl)-1-methyl-1H-benzimidazol-5-yl]-6-methyl-2-oxo-2H-1,3,4-thiadiazin-3(6H)-yl]ethylcarbamate | 13 mM, 6.3 g | FC=1C=C(C=CC1)C1=NC2=C(N1C)C=CC(=C2)C2=NN(C(SC2C)=O)CCNC(OC(C)(C)C)=O | C25H28FN5O3S
reactant | hydrochloride | Cl | ClH
solvent | dioxane | 4N, 30 ml | O1CCOCC1 | C4H8O2
product | 3-(2-aminoethyl)-5-[2-(3-fluorophenyl)-1-methyl-1H-benzimidazol-5-yl]-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one | NCCN1C(SC(C(=N1)C1=CC2=C(N(C(=N2)C2=CC(=CC=C2)F)C)C=C1)C)=O | C20H20FN5OS
